US06881746B2
4-Trifluoromethylaniline (2.00 g; 12.4 mmol) and potassium thiocyanate (4.82 g; 49.7 mmol) was suspended in 1N aqueous HCl (20 ml). A clear solution was obtained upon heating to reflux (after 1 hour, a precipitate started to form). The mixture was refluxed overnight, then cooled to room temperature and extracted with ethyl acetate. The organic phase was washed with brine and dried with anhydrous sodium sulphate. Solvent was removed, and the residual oil was striped twice from acetonitril, to give a quantitative yield of (4-trifluoromethylphenyl)thiourea.

reactant | 4-Trifluoromethylaniline | 12.4 mmol, 2.00 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | potassium thiocyanate | 49.7 mmol, 4.82 g | [S-]C#N.[K+]
solvent | HCl | 1N, 20 ml | Cl | ClH
product | (4-trifluoromethylphenyl)thiourea | quantitative yield | FC(C1=CC=C(C=C1)NC(=S)N)(F)F | C8H7F3N2S
